US09102682B2
tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]methyl]carbamate was synthesized using 5-bromo-2,4-dichloro-pyrimidine and Intermediate L using analogous reaction conditions as described for tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate. 1H NMR (600 MHz, DMSO-d6) δ ppm 1.34 (s, 9H) 1.50-1.58 (m, 2H) 1.63-1.78 (m, 4H) 1.96-2.06 (m, 2H) 3.25 (d, J=6.15 Hz, 2H) 6.71 (s, 1H) 7.18 (t, J=6.29 Hz, 1H) 8.20 (s, 1H). LCMS (ESI) 405 (M+H).

reactant | 5-bromo-2,4-dichloro-pyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl N-[2-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]-3-methyl-butyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC(CNC(OC(C)(C)C)=O)C(C)C | C14H22BrClN4O2
product | tert-butyl N-[[1-[(5-bromo-2-chloro-pyrimidin-4-yl)amino]cyclopentyl]methyl]carbamate | BrC=1C(=NC(=NC1)Cl)NC1(CCCC1)CNC(OC(C)(C)C)=O | C15H22BrClN4O2
